US07977344B2
2-[(3-Methyl butyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine
To a solution of 8-bromo-2-[(3-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (314 mg) was added sodium methoxide solution (0.460 mL, 30% wt. MeOH) and the mixture was stirred at reflux for 4 h. The reaction was allowed to cool and was concentrated in vacuo to give an orange residue. The residue was taken up in EtOAc (20 mL) and was extracted with saturated ammonium chloride solution (20 mL), followed by water (20 mL). The organics were separated, dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a light orange solid (210 mg).

reactant | 8-bromo-2-[(3-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 314 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCCC(C)C)C1OCCCC1 | C15H22BrN5O2
reactant | sodium methoxide | 0.460 mL | C[O-].[Na+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-[(3-Methyl butyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine | 210 mg | CC(CCOC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N)C | C16H25N5O3
